2121-11-18 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: VT, sedated/intubated for multiple ICD firing
   24 Hour Events:
   1 run of VT for 10 seconds (no shock delivered), frequent PVCs. Remains
   intubated, sedated. Mg repleted. Positive UA, bactrim started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Aspirin 325 mg PO DAILY
   Metoprolol Tartrate 25 mg PO TID
   Diltiazem 90 mg PO QID
   Furosemide 20 mg PO DAILY
   Beclomethasone Dipropionate *NF* 40 mcg/Actuation Inhalation [**Hospital1 **]
   Ipratropium Bromide MDI 2 PUFF IH QID
   Lisinopril 10 mg PO DAILY
   Pravastatin 80 mg PO HS
   Ranitidine 300 mg PO DAILY
   Heparin 5000 UNIT SC TID
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-18**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 67 (59 - 92) bpm
   BP: 140/73(95) {103/53(73) - 144/74(96)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    512 mL
                                                                    396 mL
   PO:
             TF:
   IVF:
                                                                    512 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    305 mL
   Urine:
                                                                    665 mL
                                                                    305 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 414 (414 - 414) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 51.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/50/99.[**Numeric Identifier 433**]/29/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Gen: Obese middle aged woman. Intubated, sedated.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   Neck: JVP not appreciated due to large neck
   CV: PMI not palpable. RRR, Nl S1, S2. No m,r,g.
   Chest: Decreased aeration at bases bilaterally. No wheezes, rales,
   rhonchi.
   Abd: Obese, Soft, NTND, +BS
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers.
   Pulses:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+
   Neuro: On propofol drip. PERRL, CN-gag, dolls, corneals intact. No
   withdrawal of extremities (propofol at 60mcg/min)
   Labs / Radiology
   249 K/uL
   13.2 g/dL
   126 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   101 mEq/L
   139 mEq/L
   37.7 %
   11.4 K/uL
        [image002.jpg]
                            [**2121-11-17**]  05:08 PM
                            [**2121-11-17**]  06:54 PM
                            [**2121-11-18**]  05:15 AM
                            [**2121-11-18**]  05:26 AM
   WBC
   11.4
   Hct
   37.7
   Plt
   249
   Cr
   0.7
   TCO2
   30
   30
   31
   Glucose
   126
   Other labs: Mg++:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN
   59 yo woman with COPD, CAD s/p angioplasty, VT s/p ICD, admitted to CCU
   for sustained VTach.
   .
   #. Rhythm: Pt currently in NSR with PVCs. On Amiodarone drip at
   .5mg/min, Lopressor 25mg tid, diltiazem 90 po qid, propofol drip for
   sedation. ICD battery low, but all previous ICD firings were
   appropriate.
   -Continue Amio drip, Lopressor, Dilt for VT
   -Propofol for sedation, decreased catecholamine production, reassess in
   AM
   -Pacer Pads-Low ICD battery life. If pt has 20 second run of VT without
   ICD firing, shock externally.
   -ASA 325, holding heparin and coumadin, as per EP.
   -TTE
   -Cath, possible ablation today
   -Plan for extubation, ICD as per EP
   .
   #. CAD
   -Lopressor 25mg tid, ASA 325mg, Dilt 90mg qid, Pravastatin 80mg,
   Lisinopril 10mg, Isosorbide Mononitrate 10mg [**Hospital1 **]
   .
   #. Pump: Last known EF ([**2112**]) normal
   -On lasix 20mg po daily
   .
   #.COPD/Resp: intubated, sedated
   -Atrovent
   -Qvar-increase as per pharmacy
   -Albuterol MDI 2 PUFF IH Q4H:PRN
   -FU cxr.
   -ABG: pH wnl, increased PCO2, but severe COPD
   .
   #. FEN: NPO, intubated. KVO.
   .
   #. GERD: Ranitidine 300mg po daily
   .
   # Neuro: Pt currently on propofol, limited neuro exam. No deficits at
   baseline as per history.
   .
   #. Access/Lines: [**Last Name (LF) 1200**], [**First Name3 (LF) 865**].
   .
   #. PPx:  SQH 5000u TID.
   .
   #. Code: Full
   .
   #. Dispo:  CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2121-11-17**] 04:08 PM
   20 Gauge - [**2121-11-17**] 04:08 PM
   Arterial Line - [**2121-11-17**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   09:27
   ------ Protected Section ------
   Plan: ID: Bactrim started for positive UA
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Hospital 2273**] Medical
   Student  on:[**2121-11-18**] 09:29 ------
   09:29

2121-11-19 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: VT
   24 Hour Events:
   [**2121-10-18**]:  Cath->no intervenable disease, not grossly changed.  EP did
   ablation of left ventricular source.  Following ablation, no arrythmias
   were inducible.  Requested heparin to be started at 4AM with goal PTT
   50-70 if no bleeding.  A-line damped, may need to be changed.  TTE:
   Mild symmetric left ventricular hypertrophy with dilated left ventricle
   and focal regional systolic dysfunction consistent with coronary artery
   disease. Mildly dilated right ventricle with mild hypokinesis.  TSH
   nl.  Cultured for T 100.6. Tele: 3 runs of vt-3-4 beats each.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-11-18**] 09:30 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 1,500 units/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Aspirin 325 mg PO DAILY
   Metoprolol Tartrate 25 mg PO TID
   Diltiazem 90 mg PO QID
   Furosemide 20 mg PO DAILY
   Beclomethasone Dipropionate *NF* 40 mcg/Actuation Inhalation [**Hospital1 **]-5
   puffs
   Ipratropium Bromide MDI 2 PUFF IH QID
   Lisinopril 10 mg PO DAILY
   Pravastatin 80 mg PO HS
   Ranitidine 300 mg PO DAILY
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 64 (55 - 72) bpm
   BP: 104/58(75) {82/54(71) - 142/132(137)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 104.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,665 mL
                                                                    375 mL
   PO:
             TF:
   IVF:
                                                                  2,255 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                  1,130 mL
   Urine:
                                                                  2,475 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                   -755 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 47 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/48/98.[**Numeric Identifier 500**]/29/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: Obese middle aged woman. Intubated, sedated.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   Neck: JVP not appreciated due to large neck
   CV: PMI not palpable. RRR, Nl S1, S2. No m,r,g.
   Chest: Decreased air entry at bases. Inspiratory wheezes, R>L at upper
   lung fields.
   Abd: Obese, Soft, NTND. Inguinal dressing C,D,I. No bruits or
   hematomas.
   Ext: Cold LE but 2+ DPs
   Skin: No stasis dermatitis, ulcers.
   Neuro: On propofol 60mcg, PERRL. No corneals, dolls. Does not withdraw
   extremities to pain. Reflexes symmetrical.
   Labs / Radiology
   223 K/uL
   13.1 g/dL
   111 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   38.0 %
   9.8 K/uL
        [image002.jpg]
                            [**2121-11-17**]  05:08 PM
                            [**2121-11-17**]  06:54 PM
                            [**2121-11-18**]  05:15 AM
                            [**2121-11-18**]  05:26 AM
                            [**2121-11-18**]  09:37 PM
                            [**2121-11-19**]  02:28 AM
                            [**2121-11-19**]  04:55 AM
   WBC
   11.4
   9.8
   Hct
   37.7
   38.0
   Plt
   249
   223
   Cr
   0.7
   0.7
   TCO2
   30
   30
   31
   26
   30
   Glucose
   126
   111
   Other labs: PT / PTT / INR:13.6/33.1/1.2, Lactic Acid:0.8 mmol/L,
   Mg++:2.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN
   59 yo woman with COPD, CAD s/p angioplasty, VT s/p ICD, admitted to CCU
   for sustained VTach.
   .
   #. Rhythm: Pt currently in NSR with PVCs. On Amiodarone drip at
   .5mg/min, Lopressor 25mg tid, diltiazem 90 po qid, propofol drip for
   sedation. ICD battery low, but all previous ICD firings were
   appropriate. S/p cath, ablation.
   -Continue Amio drip, Lopressor, Dilt for VT
   -Propofol for sedation, decreased catecholamine production, reassess in
   AM
   -Pacer Pads-Low ICD battery life. If pt has 20 second run of VT without
   ICD firing, shock externally.
   -IV Heparin, no coumadin yet.
   -ICD change later in the week
   -Wean to extubate
   .
   #. CAD
   -Lopressor 25mg tid, ASA 325mg, Dilt 90mg qid, Pravastatin 80mg,
   Lisinopril 10mg, Isosorbide Mononitrate 10mg [**Hospital1 **]
   .
   #. Pump: Last known EF ([**2112**]) normal
   -On lasix 20mg po daily
   .
   # ID: On Bactrim DS for positive UA, started on [**11-17**]
   -Cultured O/N for T 100.6
   -WBC 9 from 11
   -FU Ucx, Bcx
   .
   #.COPD/Resp: intubated, sedated
   -Atrovent
   -Qvar-
   -Albuterol MDI 2 PUFF IH Q4H:PRN
   -FU cxr.
   -ABG: 7.39/48/98. RSBI-50.
   .
   #. FEN: NPO, intubated. KVO.
   .
   #. GERD: Ranitidine 300mg po daily
   .
   # Neuro: Pt currently on propofol, limited neuro exam. No deficits at
   baseline as per history.
   .
   #. Access/Lines: [**Last Name (LF) 1200**], [**First Name3 (LF) 865**].
   .
   #. PPx:  On heparin drip.
   .
   #. Code: Full
   .
   #. Dispo:  CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-11-17**] 05:00 PM
   20 Gauge - [**2121-11-19**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   12:51

2121-11-20 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated yesterday, required racemic epi for upper airway sounds,
   briefly without gag reflex following extubation. T max of 100.1 (Day 3
   of bactrim for positive UTI, WBC count 8, Ucx and Bcx pending). Amio
   400 TID started. Tele: 3 short runs of NSVT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-11-18**] 09:30 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Aspirin 325 mg PO DAILY
   Amiodarone 400mg po TID
   Metoprolol Tartrate 25 mg PO TID
   Diltiazem 90 mg PO QID
   Furosemide 20 mg PO DAILY
   Beclomethasone Dipropionate *NF* 40 mcg/Actuation Inhalation [**Hospital1 **]-5
   puffs
   Ipratropium Bromide MDI 2 PUFF IH QID
   Lisinopril 10 mg PO DAILY
   Pravastatin 80 mg PO HS
   Ranitidine 300 mg PO DAILY
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-20**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 64 (59 - 83) bpm
   BP: 98/45(65) {93/45(65) - 146/98(328)} mmHg
   RR: 18 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 104.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,308 mL
                                                                    401 mL
   PO:
                                                                    270 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    978 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    920 mL
   Urine:
                                                                  3,270 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,962 mL
                                                                   -519 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 473 (325 - 552) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.41/32/89.[**Numeric Identifier 433**]/28/-2
   Ve: 10.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Gen: Obese middle aged woman. Intubated, sedated.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   Neck: JVP not appreciated due to large neck
   CV: PMI not palpable. RRR, Nl S1, S2. No m,r,g.
   Chest: Decreased air entry throughout, mild inspiratory wheezes, no
   crackles.
   Abd: Obese, Soft, NTND. Inguinal dressing C,D,I. No bruits or
   hematomas.
   Ext: warm, 2+ DPs
   Skin: No stasis dermatitis, ulcers.
   Neuro: PERRL, EOMI, CN2-12 intact. Strength: no pronator drift, [**5-5**]
   proximal muscles in UE, [**5-5**] in proximal, distal LE muscles. Intact:
   Heel-shin. Symmetric sensory exam to LT, symmetric DTRs.
   [**Name (NI) 610**] / Radiology
   202 K/uL
   12.5 g/dL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   7 mg/dL
   102 mEq/L
   139 mEq/L
   35.0 %
   8.1 K/uL
        [image002.jpg]
                            [**2121-11-17**]  05:08 PM
                            [**2121-11-17**]  06:54 PM
                            [**2121-11-18**]  05:15 AM
                            [**2121-11-18**]  05:26 AM
                            [**2121-11-18**]  09:37 PM
                            [**2121-11-19**]  02:28 AM
                            [**2121-11-19**]  04:55 AM
                            [**2121-11-19**]  11:00 AM
                            [**2121-11-19**]  02:48 PM
                            [**2121-11-20**]  05:40 AM
   WBC
   11.4
   9.8
   8.1
   Hct
   37.7
   38.0
   35.0
   Plt
   249
   223
   202
   Cr
   0.7
   0.7
   0.6
   TCO2
   30
   30
   31
   26
   30
   31
   21
   Glucose
   126
   111
   120
   Other [**Year (4 digits) **]: PT / PTT / INR:13.1/60.2/1.1, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN
   59 yo woman with COPD, CAD s/p angioplasty, VT s/p ICD, admitted to CCU
   for sustained VTach.
   .
   #. Rhythm: Pt currently in NSR with PVCs. On Amiodarone drip at
   .5mg/min, Lopressor 25mg tid, diltiazem 90 po qid, propofol drip for
   sedation. ICD battery low, but all previous ICD firings were
   appropriate. S/p cath, ablation.
   -Continue Amio drip, Lopressor, Dilt for VT
   -Propofol for sedation, decreased catecholamine production, reassess in
   AM
   -Pacer Pads-Low ICD battery life. If pt has 20 second run of VT without
   ICD firing, shock externally.
   -IV Heparin, no coumadin yet.
   -ICD change later in the week
   -Wean to extubate
   .
   #. CAD
   -Lopressor 25mg tid, ASA 325mg, Dilt 90mg qid, Pravastatin 80mg,
   Lisinopril 10mg, Isosorbide Mononitrate 10mg [**Hospital1 **]
   .
   #. Pump: Last known EF ([**2112**]) normal
   -On lasix 20mg po daily
   .
   # ID: On Bactrim DS for positive UA, started on [**11-17**]
   -Cultured O/N for T 100.6
   -WBC 8 from 11
   -FU Ucx, Bcx
   .
   #.COPD
   -Atrovent
   -Qvar-
   -Albuterol MDI 2 PUFF IH Q4H:PRN
   .
   #. FEN: Extubated. NPO.
   .
   #. GERD: Ranitidine 300mg po daily
   .
   #. Access/Lines: [**Last Name (LF) 1200**], [**First Name3 (LF) 865**].
   .
   #. PPx:  On heparin drip.
   .
   #. Code: Full
   .
   #. Dispo:  CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-11-17**] 05:00 PM
   20 Gauge - [**2121-11-19**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-11-21 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Scheduled for generator change today.
   S:  Feeling well.  Denies chest pain, SOB.  No other complaints.
   Tele:  No significant events.  PVC rate 0-6 bpm.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-11-18**] 09:30 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-21**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 63 (49 - 74) bpm
   BP: 104/57(74) {71/34(46) - 130/75(96)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 104.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,926 mL
                                                                     93 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                    586 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                    220 mL
   Urine:
                                                                  2,890 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -964 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Gen: Obese middle aged woman. No extubated but with persistent thick
   secretions
   Neck: JVP not appreciated due to large neck
   CV: PMI not palpable. RRR, Nl S1, S2. 1-2/6 systolic murmur at RLSB
   without radiation.
   Chest: CTAB
   Abd: Obese, Soft, NTND.
   Ext: warm, 2+ DPs
   Skin: No stasis dermatitis, ulcers.
   Labs / Radiology
                                     140
                               [image002.gif]
                                     101
                               [image002.gif]
                                     12
   [image004.gif]
   122
   [image002.gif]
                                     Pnd
                               [image002.gif]
                                     0.8
   [image006.gif]
   91
                                                                       7.8
                                                            [image006.gif]
                                    12.5
   [image004.gif]
   231
                 [image007.gif]
   [image004.gif]
                                    36.2
   [image006.gif]
   Mg: 2.0 P: 3.5
   PT: 16.1
   PTT: 64.1
   INR: 1.4
                            [**2121-11-17**]  06:54 PM
                            [**2121-11-18**]  05:15 AM
                            [**2121-11-18**]  05:26 AM
                            [**2121-11-18**]  09:37 PM
                            [**2121-11-19**]  02:28 AM
                            [**2121-11-19**]  04:55 AM
                            [**2121-11-19**]  11:00 AM
                            [**2121-11-19**]  02:48 PM
                            [**2121-11-20**]  05:40 AM
                            [**2121-11-20**]  04:25 PM
   WBC
   11.4
   9.8
   8.1
   Hct
   37.7
   38.0
   35.0
   Plt
   249
   223
   202
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   30
   31
   26
   30
   31
   21
   Glucose
   126
   111
   120
   177
   Other labs: PT / PTT / INR:13.1/60.2/1.1, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Urine: E.coli
   Assessment and Plan
   59 yo woman with COPD, CAD s/p angioplasty, VT s/p ICD, admitted to CCU
   for sustained VTach.
   .
   #. Rhythm: Pt currently in NSR with improving PVCs.  On PO Amiodarone,
   Lopressor 25mg tid.  ICD battery low, but all previous ICD firings were
   appropriate. S/p cath, ablation.
   -Amio 400mg po tid
   -D/C dilt as HR low.
   -Pacer Pads-Low ICD battery life. If pt has 20 second run of VT without
   ICD firing, shock externally.
   -IV Heparin until 6am tomorrow
   -ICD change today
   -Coumadin 5mg, follow INR
   -Will discuss with EP regarding heparin following procedure.
   .
   #. CAD
   -Lopressor 25mg tid, ASA 325mg, Pravastatin 80mg, Lisinopril 10mg,
   Isosorbide Mononitrate 10mg [**Hospital1 **]
   .
   #. Pump: Last known EF ([**2112**]) normal
   -On lasix 20mg po daily with good diuresis
   .
   # ID: On Bactrim DS for positive UA, started on [**11-17**].  Afebrile, WBC 8
   from 11
   -D/C foley
   -will do 7 day course for complicated UTI
   -FU Ucx, Bcx
   .
   # Respiratory: COPD and copious secretions likely due to airway
   irritation.  Will continue to wean O2 as tolerated.
   -Atrovent
   -Albuterol MDI 2 PUFF IH Q4H:PRN
   .
   #. FEN: Diet per speech and swallow recs
   .
   #. GERD: Ranitidine 300mg po daily
   .
   #. Access/Lines: [**Last Name (LF) 1200**], [**First Name3 (LF) 865**].
   .
   #. PPx:  On heparin drip until 6am.  Start SC Heparin.  Ranitidine.
   .
   #. Code: Full
   .
   #. Dispo: Floor following battery change.
           1. IV access: Peripheral line Order date: [**11-17**] @ 1741
   14. Lisinopril 10 mg PO DAILY  Order date: [**11-17**] @ 1741
   2. IV access: Peripheral line Order date: [**11-17**] @ 1741
   15. Magnesium Sulfate 4 gm IV ONCE Duration: 1 Doses Order date: [**11-20**]
   @ 0822
   3. Advair Diskus *NF* 500-50 mcg/Dose Inhalation 1 puff [**Hospital1 **]  Order
   date: [**11-20**] @ 1123
   16. Metoprolol Tartrate 25 mg PO TID
   hold for SBP<90 or HR<60  Order date: [**11-17**] @ 1805
   4. Albuterol MDI 2 PUFF IH Q4H:PRN shortness of breath, wheezing  Order
   date: [**11-17**] @ 1741
   17. Multivitamins 1 TAB PO DAILY  Order date: [**11-17**] @ 1741
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN  Order date: [**11-19**] @ 1329
   18. Potassium Chloride 40 mEq PO ONCE Duration: 1 Doses
   Hold for K >  Order date: [**11-20**] @ 1749
   6. Amiodarone 400 mg PO TID
   to overlap with IV Amiodarone until [**11-20**] afternoon dose  Order date:
   [**11-19**] @ 1623
   19. Pravastatin 80 mg PO HS  Order date: [**11-17**] @ 1741
   7. Aspirin 325 mg PO DAILY  Order date: [**11-17**] @ 1741
   20. Ranitidine 300 mg PO DAILY  Order date: [**11-17**] @ 1741
   8. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure)
   Order date: [**11-18**] @ 1538
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-17**] @ 1741
   9. Diltiazem 90 mg PO QID
   hold for SBP<90 or HR<60  Order date: [**11-17**] @ 1851
   22. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-17**] @ 1741
   10. Furosemide 20 mg PO DAILY  Order date: [**11-17**] @ [**2064**]
   23. Sulfameth/Trimethoprim DS 1 TAB PO BID  Order date: [**11-18**] @ 0707
   11. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-17**] @ 1501
   24. Vancomycin 1000 mg IV ONCE Duration: 1 Doses Start: on call to EP
   lab Order date: [**11-20**] @ 0819
   12. Ipratropium Bromide MDI 2 PUFF IH QID  Order date: [**11-18**] @ 0058
   25. Warfarin 5 mg PO DAILY16  Order date: [**11-20**] @ 0823
   13. Isosorbide Mononitrate 10 mg PO BID
   hold for SBP<90  Order date: [**11-17**] @ 1851

2121-11-22 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 59 yo woman with COPD, CAD s/p angioplasty, VT s/p
   ICD, admitted to CCU for sustained VTach.
   24 Hour Events:
   ICD changed.  Bactrim-resistant UTI.  Patient started on Keflex to
   cover both.  Called out.  EP requested coumadin restarted but no
   heparin.
   Called out but no beds
   Subjective: Dry cough. No SOB no CP
   Tele: Occ PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-11-21**] 08:00 AM
   Keflex - [**2121-11-21**] 04:45 PM
   Meropenem - [**2121-11-22**] 06:16 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2121-11-21**] 06:00 PM
   Other medications:
   Flowsheet Data as of  [**2121-11-22**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 64 (62 - 75) bpm
   BP: 114/55(69) {98/48(64) - 129/92(99)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 104.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,129 mL
                                                                    460 mL
   PO:
                                                                  1,030 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     99 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    700 mL
   Urine:
                                                                  1,235 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -106 mL
                                                                   -240 mL
   Physical Examination
   Gen: Obese middle aged woman.
   Neck: JVP not appreciated due to large neck
   CV: PMI not palpable. RRR, Nl S1, S2. no Murmurs, quiet HS
   Chest: CTAB
   Abd: Obese, Soft, NTND.
   Ext: warm, 2+ DPs
   Skin: No stasis dermatitis, ulcers.
   Labs / Radiology
   /L
    mg/dL
        [image002.jpg]
                                     140
                               [image004.gif]
                                     101
                               [image004.gif]
                                     16
   [image006.gif]
   108
                                                                   AGap=13
   [image007.gif]
   4.4
                               [image004.gif]
                                     30
                               [image004.gif]
                                     0.9
   [image009.gif]
   Mg: 1.9
   92
                                                                       8.3
                                                            [image009.gif]
                                    13.1
   [image006.gif]
   236
                 [image010.gif]
   [image006.gif]
                                    38.7
   [image009.gif]
   PT: 15.8
   PTT: 30.3
   INR: 1.4
                            [**2121-11-18**]  05:15 AM
                            [**2121-11-18**]  05:26 AM
                            [**2121-11-18**]  09:37 PM
                            [**2121-11-19**]  02:28 AM
                            [**2121-11-19**]  04:55 AM
                            [**2121-11-19**]  11:00 AM
                            [**2121-11-19**]  02:48 PM
                            [**2121-11-20**]  05:40 AM
                            [**2121-11-20**]  04:25 PM
                            [**2121-11-21**]  08:15 AM
   WBC
   11.4
   9.8
   8.1
   7.8
   Hct
   37.7
   38.0
   35.0
   36.2
   Plt
   249
   223
   202
   231
   Cr
   0.7
   0.7
   0.6
   0.7
   0.8
   TCO2
   31
   26
   30
   31
   21
   Glucose
   126
   111
   120
   177
   122
   Other labs: PT / PTT / INR:16.1/64.1/1.4, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   59 yo woman with COPD, CAD s/p angioplasty, VT s/p ICD, admitted to CCU
   for sustained VTach.
   .
   #. Rhythm: Pt currently in NSR with improving PVCs.  On PO Amiodarone,
   Lopressor 25mg tid.  ICD battery replaced.
   -Amio 400mg po tid
   -off dilt
   -Coumadin 5mg, follow INR
   .
   #. CAD
   -Lopressor 25mg tid, ASA 325mg, Pravastatin 80mg, Lisinopril 10mg,
   Isosorbide Mononitrate 10mg [**Hospital1 **]
   .
   #. Pump: ECHO EF 40-45%, mild LVH and mod LV dilation, inferior and
   inferolateral akinesis
   -On lasix 20mg po daily with good diuresis
   .
   # ID: Keflex to cover UTI and ICD x 7 days
   .
   # Respiratory:
   -Atrovent
   -Albuterol MDI 2 PUFF IH Q4H:PRN
   .
   #. FEN: Full diet, lytes prn, no IVF
   #. Access/Lines: [**Last Name (LF) 1200**], [**First Name3 (LF) 865**].
   #. PPx:  Coumadin, Ranitidine.
   #. Dispo: to [**Hospital Ward Name 408**] 3
   Full code
                       Active Medications [**Known lastname 2359**],[**Known firstname 2360**]
                   14. Isosorbide Mononitrate 10 mg PO BID
   13. Ipratropium Bromide MDI 2 PUFF IH QID
   15. Lisinopril 10 mg PO DAILY
   3. Advair Diskus *NF* 500-50 mcg/Dose 1 puff [**Hospital1 **]
   16. Metoprolol Tartrate 25 mg PO TID
   4. Albuterol MDI 2 PUFF IH Q4H:PRN
   7. Aspirin 325 mg PO DAILY
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN
   19. Pravastatin 80 mg PO HS
   17. Multivitamins 1 TAB PO DAILY
   6. Amiodarone 400 mg PO TID
   18. Oxycodone-Acetaminophen 1 TAB PO Q8H:PRN
   23. Warfarin 5 mg PO DAILY16
   11. Guaifenesin [**5-10**] mL PO Q6H:PRN
   10. Furosemide 20 mg PO DAILY
   20. Ranitidine 300 mg PO DAILY
   9. Cephalexin 500 mg PO Q8H [**Date range (1) 2361**]